US05612340
100 mg (0.25 mmol) of N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine are dissolved in 1 ml of dimethyl sulfoxide, and 0.2 ml of ethylenediamine is added. After stirring for 22 h at 100°, the reaction mixture is concentrated and chromatographed (methylene chloride:methanol:concentrated ammonia solution=90:10:1). N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-[2-(2-amino-ethyl-amino)-4-pyridyl]-2-pyrimidineamine is obtained; FAB-MS: 423 (M+ +H), Rf =0.1 (methylene chloride:methanol:concentrated ammonia solution=90:10:1).

reactant | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | 0.25 mmol, 100 mg | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl)F | C17H11ClF4N4O
reactant | ethylenediamine | 0.2 ml | C(CN)N | C2H8N2
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-[2-(2-amino-ethyl-amino)-4-pyridyl]-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCN)F | C19H18F4N6O
